* Spice smoke fixture — resistive divider (DC OP). Node 2 sits at 5 V.
* Used by scripts/sim/run_sim.py acceptance tests (issue #44).

.title rc_divider_fixture
V1 1 0 DC 10
R1 1 2 1k
R2 2 0 1k
.op
.end
